US07838499B2
Preparation of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-(3-bromoprop-1-en-2-yl)benzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (Intermediate BA)
A mixture of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(prop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (intermediate AZ) (236 mg, 0.412 mmol) and NBS (110 mg, 0.618 mmol) in chlorobenzene (5 mL) was stirred at 135° C. for 2 h. The solids were filtered and washed with AcOEt. The organic portion was washed 1× with H2O and 1× with brine prior to drying over Na2SO4. Concentration and purification of the resulting residue by preparative TLC gave intermediate AZ (144 mg).

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(prop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.412 mmol, 236 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(=C)C)COC(C)=O | C30H33ClO9
reactant | NBS | 0.618 mmol, 110 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-(3-bromoprop-1-en-2-yl)benzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(=C)CBr)COC(C)=O | C30H32BrClO9
